US06696608B1
Synthesis of Acetonaphthone Oxime
In a 50 ml round-bottom flask, a mixture of acetonaphthone, hydroxylamine hydrochloride in pyridine was stirred, at room temperature under nitrogen blanket, for five days. The reaction mixture was then concentrated under vacuum to remove most of pyridine. The oil was then dissolved in dichloromethane. The product precipitated on standing. The product was obtained as a white solid in 65% yield.

reactant | acetonaphthone | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Acetonaphthone Oxime | 65% yield | C(C)(C1=CC=CC2=CC=CC=C12)=NO | C12H11NO
